US09278950B2
Step 8. tert-Butyl [(3S)-1-(3-nitro-1-oxido-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate
m-Chloroperbenzoic acid (198 mg, 0.883 mmol) was slowly added to a solution of tert-butyl [(3S)-1-(3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate (301.0 mg, 0.8305 mmol) in DCM (1.06 mL) at 0° C. The reaction mixture was stirred at room temperature for 67 h. The mixture was treated with aq, Na2S2O3 and 1 M NaOH, and then stirred for 30 min. at room temperature. The reaction mixture was extracted three times with DCM. The combined organic extract was dried over Na2SO4, filtered and concentrated under reduced pressure to give the sub-title compound (277 mg, 88%) as light orange powder. LCMS calc. for C18H27N4O5 (M+H)+: m/z=379.3. Found: 379.2.

reactant | m-Chloroperbenzoic acid | 0.883 mmol, 198 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tert-butyl [(3S)-1-(3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate | 0.8305 mmol, 301.0 mg | [N+](=O)([O-])C=1C(=C2C(=NC1)CCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C18H26N4O4
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | DCM | 1.06 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [(3S)-1-(3-nitro-1-oxido-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate | 277 mg, 88% | [N+](=O)([O-])C=1C(=C2C(=[N+](C1)[O-])CCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C18H26N4O5
